* Z:\mnt\design.r\spice\examples\3417A-1.asc
L1 N001 OUT1 1.5µ
R1 N003 0 412K
C1 OUT1 0 47µ
C2 N005 0 2200p Rser=5.9K
V1 IN 0 3.6
C3 N003 OUT1 22p Rpar=511K
L2 N002 OUT2 2.2µ
R2 N004 0 412K
C4 OUT2 0 10µ
C5 N004 OUT2 22p Rpar=866K
C6 0 N006 6800p Rser=2.87K
Rload1 OUT1 0 1.2
Rload2 OUT2 0 2.5
XU1 MP_01 IN IN N005 N003 N004 N006 IN IN 0 MP_02 0 N002 MP_03 0 0 0 N001 0 LTC3417A
.tran 200u startup
.lib LTC3417A.sub
.backanno
.end
