* Z:\mnt\design.r\spice\examples\1702A.asc
M§Q1 IN N002 N003 N003 FDS6680A
M§Q2 N003 N006 0 0 FDS6680A
R1 IN N004 3.3K
C1 N011 0 .001µ
R2 N007 0 30K
D1 IN N001 1N5818
C2 N001 N003 1µ
L1 N003 OUT 1µ
D2 0 N003 1N5818
C3 N008 N012 27p
R3 OUT N012 10K
R4 N012 0 4.75K
R5 N009 N008 47K
C4 N009 N012 680p
V1 IN 0 5
C5 OUT 0 180µ Rser=.1 x4
R6 OUT N010 1.2K
C6 N010 N012 820p
XU1 IN N001 N006 N002 N003 N007 N004 IN N011 N008 0 N012 IN MP_01 MP_02 MP_03 N005 MP_04 0 LTC1702A
Rload OUT 0 1
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 750u startup
.lib LTC1702A.sub
.backanno
.end
