* Z:\mnt\design.r\spice\examples\3307A.asc
L1 N002 OUT 330n
R1 OUT N003 260K
V1 IN 0 5
R2 N003 0 100K
C1 OUT 0 22µ
R4 OUT N001 500K
C3 OUT N003 2.2p
Rload OUT 0 1
XU1 IN IN N002 N003 0 0 IN N001 0 LTC3307A
.tran 1.5m startup
.lib LTC3307A.sub
.backanno
.end
