* Z:\mnt\design.r\spice\examples\3309A.asc
L1 N003 OUT 220n Rser=2m
R1 OUT N004 200K
V1 IN 0 4
R2 N004 0 200K
C1 OUT 0 47µ
R4 OUT N001 500K
C3 OUT N004 4.7p
Rload OUT 0 .2
XU1 IN IN N003 N004 0 0 N002 N001 0 LTC3309A
R3 N002 0 31.6K
.tran 1.5m startup
.lib LTC3309A.sub
.backanno
.end
