* Z:\mnt\design.r\spice\examples\3315A.asc
L1 N002 OUT1 680n Rser=2m
R1 OUT1 N003 140K
V1 IN 0 3.3
R2 N003 0 100K
C1 OUT1 0 33µ
C3 OUT1 N003 6.8p
Rload1 OUT1 0 .8
R3 OUT1 N001 500K
L2 N004 OUT2 680n Rser=2m
R4 OUT2 N005 140K
R5 N005 0 100K
C2 OUT2 0 33µ
C4 OUT2 N005 6.8p
Rload2 OUT2 0 .8
XU1 IN IN N002 N003 0 N005 IN N001 0 N004 LTC3315A
.tran 1.5m startup
.lib LTC3315A.sub
.backanno
.end
