* Z:\mnt\design.r\spice\examples\3465A.asc
L1 IN N001 22µ
V1 IN 0 5
C1 N002 0 .22µ
R1 N003 0 10
D1 N002 N003 NSPW500BS N=4
XU1 N002 0 N003 IN IN N001 LT3465A
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 100u startup
.lib LT3465A.sub
.backanno
.end
