* Z:\mnt\design.r\spice\examples\3548A.asc
V1 IN 0 3.6
L1 N002 OUT1 2.2µ
Rload1 OUT1 0 2.25
R1 N004 0 442K
R2 OUT1 N004 887K
L2 N001 OUT2 4.7µ
Rload2 OUT2 0 6.25
R5 N003 0 280K
R6 OUT2 N003 887K
C3 OUT2 N003 22p
C4 OUT1 N004 22p
XU1 N004 IN IN N002 0 IN N001 MP_01 IN N003 LTC3548A
C1 OUT2 0 4.7µ
C2 OUT1 0 10µ
.tran .5m startup
.lib LTC3548A.sub
.backanno
.end
