* Z:\mnt\design.r\spice\examples\3406AB.asc
V1 IN 0 3.5
C2 OUT 0 10µ
L1 N001 OUT 2.2µ
R3 OUT 0 10
R1 OUT N002 619K
R2 N002 0 309K
C1 OUT N002 22p
XU1 IN 0 N001 IN N002 LTC3406AB
.tran 1.25m startup
.lib LTC3406AB.sub
.backanno
.end
