* Z:\mnt\design.r\spice\examples\1643AL.asc
R1 N001 N002 7m
M§Q1 N002 N004 N003 N003 IRF7413
R2 N004 N009 10
R3 N010 N009 100
M§Q2 N006 N008 N007 N007 IRF7413
R4 N008 N009 10
R5 N005 N006 5m
C1 N010 0 0.047µ
V1 N001 0 PULSE(0 5 5m 5m 5m 250m 300m)
V2 N005 0 PULSE(0 3.3 5m 5m 5m 250m 300m)
V3 N012 0 PULSE(0 12 5m 5m 5m 400m 450m)
V4 N014 0 PULSE(0 -12 5m 5m 5m 400m 450m)
V5 N015 0 PWL(0 3.3 40m 3.3 +1u 0)
V6 N019 0 12
R6 N017 N019 10K
C2 N007 0 30µ
C3 N011 0 10µ
C4 N013 0 10µ
C5 N016 0 0.1µ
C6 N003 0 30µ
R7 N018 N019 10K
XU1 N012 N014 N007 N016 N015 N017 N018 0 N005 N006 N009 N002 N001 N003 N013 N011 LTC1643AL
Rload1 N003 0 2
Rload2 N007 0 0.87
Rload3 N011 0 30
Rload4 N013 0 150
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
* 5V, 5A
* 3.3V, 7.6A
* 12V, 500mA
* -12V, -100mA
.tran 550m
.lib LTC1643AL.sub
.backanno
.end
