* Z:\mnt\design.r\spice\examples\3406B-1.5.asc
V1 IN 0 5
C1 OUT 0 22µ
L1 N001 OUT 4.7µ
Rload OUT 0 5
XU1 IN 0 N001 IN OUT LTC3406B-x.x top=330K bot=220K
.tran 500u startup
.lib LTC3406B-x.x.sub
.backanno
.end
