* Z:\mnt\design.r\spice\examples\3203B-1.asc
V1 IN 0 3.6
C1 N001 N003 2.2µ
C3 OUT 0 10µ
R2 N002 0 100K
R3 IN N002 400K
XU1 N001 OUT N004 IN 0 N002 IN N003 0 N005 LTC3203B-1
C2 N004 N005 2.2µ
Rload OUT 0 20
.tran 1m startup
.lib LTC3203B-1.sub
.backanno
.end
