* Z:\mnt\design.r\spice\examples\3547B-1.asc
V1 IN 0 5
L2 N001 OUT2 4.7µ
Rload2 OUT2 0 4
L1 N002 OUT1 4.7µ
Rload1 OUT1 0 6
XU1 OUT1 IN IN N002 0 N001 IN OUT2 LTC3547B-1
C2 OUT2 0 4.7µ
C1 OUT1 0 4.7µ
.tran 800u startup
.lib LTC3547B-1.sub
.backanno
.end
