* Z:\mnt\design.r\spice\examples\1142HV-ADJ.asc
R1 N012 N011 1K
C1 N011 0 3300p
C2 N018 0 390p
C3 N017 0 590p
M§Q1 N007 N010 0 0 FDS6680A
C4 N008 OUT2 1000p
L1 N007 N008 50µ
R2 N008 OUT2 50m
C5 OUT1 0 220µ Rser=0.1 x2
D1 0 N007 1N5818
M§Q2 N006 N009 0 0 FDS6680A
M§Q3 N006 N001 IN IN FDC638P
L2 N006 N005 50µ
R3 N005 OUT1 50m
D2 0 N006 1N5818
C6 N005 OUT1 1000p
V1 IN 0 10
M§Q4 N007 N004 IN IN FDC638P
XU1 N005 N015 N002 0 0 N009 MP_01 MP_02 N004 IN N018 MP_03 N013 OUT2 N008 N016 N003 0 0 N010 MP_04 MP_05 N001 IN N017 MP_06 N012 OUT1 LTC1142-ADJ
R4 N013 N014 1K
C7 N014 0 3300p
R5 N015 0 1K
R6 OUT1 N015 2K
R7 N016 0 1K
R8 OUT2 N016 2K
C8 OUT2 0 220µ Rser=0.1 x2
Rload2 OUT2 0 10
Rload1 OUT1 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
.lib LTC1142-ADJ.sub
.backanno
.end
