* Z:\mnt\design.r\spice\examples\1550LCS8-2.asc
C1 N001 0 .1µ
C2 N003 N002 .1µ
V1 IN 0 4.5
C3 OUT 0 10µ
Rload OUT 0 1K
XU1 IN IN N002 OUT N003 0 N001 OUT LTC1550LCS8-2
.tran 1m startup
.lib LTC1550LCS8-2.sub
.backanno
.end
