* Z:\mnt\design.r\spice\examples\1551LCS8.asc
V1 IN 0 4.5
C1 N004 N003 .1µ
C2 N002 0 .1µ
C3 OUT 0 10µ
XU1 0 IN N003 OUT N004 0 N002 N001 LTC1551LCS8
R1 N001 OUT 10K
R2 0 N001 5K
Rload OUT 0 1K
.tran 1m
.lib LTC1551LCS8.sub
.backanno
.end
