* Z:\mnt\design.r\spice\examples\2ndOrderBandpass.asc
L1 N003 0 {L1} Cpar={C1}
G1 0 N002 1 0 {2/R1}
R1 N002 0 {R1/2}
R2 N003 N002 {R1/2}
G2 0 2 N003 0 {10*H}
R3 2 0 .1
* .param f0= 1k Q=.5
.param R1=1k
.param L1=1/(C1*(2*pi*f0)**2)
* Most efficient LTSPICE implementation for f0 and Q set by parameters >>>
* R1 is arbitary >>>
* This version puts 1/2 the R1 resistance in the capacitor
.param C1=Q/(R1*2*pi*f0)
* Vout
* Vin
.backanno
.end
